US07678787B2
Step A. 10-[(4-Bromophenyl)sulfonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (10 g, 0.0543 mol) and N,N-diisopropylethylamine (14.2 mL, 0.0814 mol) in dry dichloromethane (200 mL) at 0° C. under nitrogen was added dropwise a solution of 4-bromobenzenesulfonyl chloride (10.4 g, 0.0407 mol) in dry dichloromethane (80 mL) over 10 minutes. The ice bath was removed and the reaction mixture stirred at room temperature for 18 hours. The reaction mixture was then washed with 1 M hydrochloric acid (2×250 mL), 0.5 M sodium hydroxide (250 mL) and water (250 mL), dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford a purple syrup (17.91 g). Purification by flash chromatography using a solvent gradient of 5 to 10% ethyl acetate in hexane afforded a tan solid (3.21 g) that was recrystallized from ethyl acetate/hexane to afford the title compound (2.55 g, 16%) as a tan crystalline solid, m.p. 128-129° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.0543 mol, 10 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 0.0814 mol, 14.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromobenzenesulfonyl chloride | 0.0407 mol, 10.4 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 10-[(4-Bromophenyl)sulfonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 17.91 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H15BrN2O2S
